### PR TITLE
Refactoring pointed types

### PR DESCRIPTION
**Pull request by EgbertRijke**
The changes in this PR are pulled from #885.

### CODE REVIEW

File: src/structured-types/morphisms-pointed-arrows.lagda.md [hunk 1]
```diff
@@ -0,0 +1,824 @@
+# Morphisms of pointed arrows
+
+```agda
+{-# OPTIONS --allow-unsolved-metas #-}
```
Comment (EgbertRijke) [inline src/structured-types/morphisms-pointed-arrows.lagda.md:4]: Note to self: This file still needs some attention.

**Comment by EgbertRijke** [comment]
Yay this actually compiles now:)

File: src/structured-types/morphisms-pointed-arrows.lagda.md (hunk 1 above)
Comment (EgbertRijke) [reply src/structured-types/morphisms-pointed-arrows.lagda.md:4]: This is the only file that I still need to work on before I can mark this PR as ready for review. Other than this file, the PR is pretty much ready for review. I need to write the summary too, but if someone is willing to have a look over this PR already I welcome any comments and feedback.

**Comment by fredrik-bakke** [comment]
Congrats! 🎉🎉🎉
I assume @VojtechStep perhaps wants to review this, so I'll hold off on starting a review until I see him.

**Comment by EgbertRijke** [comment]
Sure!

Note that this PR itself doesn't have much to do with synthetic homotopy, other than that the changes made here are in preparation for the refactoring of our treatment of pointed pushouts.

File: src/structured-types/constant-pointed-maps.lagda.md [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+
+open import structured-types.pointed-maps
+open import structured-types.pointed-types
+```
+
+</details>
+
+## Idea
+
+Given a type `X` and a pointed type `A`, the constant map from `X` to `A` maps
```
Comment (VojtechStep) [inline src/structured-types/constant-pointed-maps.lagda.md:23]: The file is called `constant-pointed-maps`, and the definition is `constant-pointed-map`, so I would expect the file title to be "Constant pointed maps" and this text to say

```suggestion
Given a type `X` and a pointed type `A`, the constant pointed map from `X` to `A` maps
```

with "constant pointed map" being a concept.

Is there some conceptual discrepancy I'm not seeing?

File: src/structured-types/pointed-equivalences.lagda.md [hunk 3]
```diff
@@ -19,63 +20,174 @@ open import foundation.function-types
...
-  is-prop-is-equiv-pointed-map = is-property-is-equiv ∘ map-pointed-map
+  is-prop-is-pointed-equiv : is-prop is-pointed-equiv
+  is-prop-is-pointed-equiv = is-property-is-equiv (map-pointed-map f)
 
-  is-equiv-pointed-map-Prop : (A →∗ B) → Prop (l1 ⊔ l2)
-  is-equiv-pointed-map-Prop = is-equiv-Prop ∘ map-pointed-map
+  is-pointed-equiv-Prop : Prop (l1 ⊔ l2)
+  is-pointed-equiv-Prop = is-equiv-Prop (map-pointed-map f)
 
+  module _
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:80]: This way one has to specify the underlying pointed map when using the accessors on `H : is-pointed-equiv`. Would it be possible to pull it to a new module with `f` implicit, or are there inference problems?

File: src/structured-types/pointed-equivalences.lagda.md [hunk 4]
```diff
@@ -84,23 +196,112 @@ module _
...
+  map-pointed-equiv = map-equiv equiv-pointed-equiv
 
-  is-equiv-map-equiv-pointed-equiv : is-equiv map-equiv-pointed-equiv
-  is-equiv-map-equiv-pointed-equiv = is-equiv-map-equiv equiv-pointed-equiv
-
-  preserves-point-equiv-pointed-equiv :
-    Id (map-equiv-pointed-equiv (point-Pointed-Type A)) (point-Pointed-Type B)
-  preserves-point-equiv-pointed-equiv = pr2 e
+  preserves-point-pointed-equiv :
+    Id (map-pointed-equiv (point-Pointed-Type A)) (point-Pointed-Type B)
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:203]:
```suggestion
    map-pointed-equiv (point-Pointed-Type A) ＝ point-Pointed-Type B
```

File: src/structured-types/pointed-equivalences.lagda.md [hunk 5]
```diff
@@ -19,63 +20,174 @@ open import foundation.function-types
...
 ## Idea
 
-A **pointed equivalence** is an equivalence in the category of pointed spaces.
-Equivalently, a pointed equivalence is a
-[pointed map](structured-types.pointed-maps.md) of which the underlying function
-is an [equivalence](foundation-core.equivalences.md).
+A {{#concept "pointed equivalence" Agda=_≃∗_}} `e : A ≃∗ B` consists of an
+[equivalence](foundation-core.equivalences.md) `e : A ≃ B` equipped with an
+[identification](foundation-core.identity-types.md) `p : e * ＝ *` witnessing
+that the underlying map of `e` preserves the base point of `A`. In other words,
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:55]: This isn't "in other words" - that's only equivalent up to associativity of sigmas

File: src/structured-types/pointed-equivalences.lagda.md [hunk 6]
```diff
@@ -84,23 +196,112 @@ module _
...
+  coherence-point-is-retraction-map-inv-pointed-equiv =
+    coherence-point-is-retraction-map-inv-is-pointed-equiv
+      ( pointed-map-pointed-equiv)
+      ( is-pointed-equiv-pointed-equiv)
+```
 
-  is-equiv-pointed-map-pointed-equiv :
-    is-equiv-pointed-map pointed-map-pointed-equiv
-  is-equiv-pointed-map-pointed-equiv = is-equiv-map-equiv-pointed-equiv
+### The equivalence between the total space of pointed equivalences and pointed equivalences
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:293]: This title doesn't really make sense to me, since it uses "pointed equivalences" for "pointed equivalences" and "pointed maps which are equivalences"

File: src/structured-types/pointed-equivalences.lagda.md [hunk 7]
```diff
@@ -187,334 +370,394 @@ module _
...
-  pr2 (pr1 (is-equiv-is-iso-pointed-map H)) = pr1 (pr2 (pr1 H))
-  pr1 (pr2 (is-equiv-is-iso-pointed-map H)) = pr1 (pr1 (pr2 H))
-  pr2 (pr2 (is-equiv-is-iso-pointed-map H)) = pr1 (pr2 (pr2 H))
-
-  is-prop-is-iso-pointed-map : is-prop (is-iso-pointed-map f)
-  is-prop-is-iso-pointed-map =
+      ( is-contr-section-is-pointed-equiv H)
+      ( is-contr-retraction-is-pointed-equiv H)
+
+  is-iso-is-pointed-equiv :
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:402]: Can we afford making this abstract?

File: src/structured-types/pointed-equivalences.lagda.md [hunk 8]
```diff
@@ -187,334 +370,394 @@ module _
...
-### Precomposing by pointed equivalences is a pointed equivalence
+### Any pointed map satisfying the universal property of pointed equivalences is a pointed equivalence
+
+In other words, any pointed map `f : A →∗ B` such that precomposing by `f`
+
+```text
+  - ∘∗ f : (B →∗ C) → (A →∗ C)
+```
+
+is an equivalence for any pointed type `C` is an equivalence.
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:435]: Please choose on which side to put "is an equivalence"

File: src/structured-types/pointed-equivalences.lagda.md [hunk 9]
```diff
@@ -187,334 +370,394 @@ module _
...
+        ( left-whisker-comp-pointed-htpy h
+          ( f ∘∗ pointed-map-inv-is-pointed-equiv f H)
+          ( id-pointed-map)
+          ( is-pointed-section-pointed-map-inv-is-pointed-equiv f H)))
+
+  retraction-universal-property-pointed-3quiv-is-pointed-equiv :
+    (H : is-pointed-equiv f) →
+    {l : Level} (C : Pointed-Type l) →
+    retraction (precomp-pointed-map f C)
+  pr1
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:579]: These copattern matches take 74 characters, so they should fit on one line?

File: src/structured-types/pointed-equivalences.lagda.md [hunk 10]
```diff
@@ -187,334 +370,394 @@ module _
...
+      ( h)
+      ( concat-pointed-htpy
+        ( associative-comp-pointed-map h f
+          ( pointed-map-inv-is-pointed-equiv f H))
+        ( left-whisker-comp-pointed-htpy h
+          ( f ∘∗ pointed-map-inv-is-pointed-equiv f H)
+          ( id-pointed-map)
+          ( is-pointed-section-pointed-map-inv-is-pointed-equiv f H)))
+
+  retraction-universal-property-pointed-3quiv-is-pointed-equiv :
```
Comment (VojtechStep) [inline src/structured-types/pointed-equivalences.lagda.md:575]:
```suggestion
  retraction-universal-property-pointed-equiv-is-pointed-equiv :
```

File: src/structured-types/commuting-squares-of-pointed-maps.lagda.md [hunk 11]
```diff
@@ -7,33 +7,52 @@ module structured-types.commuting-squares-of-pointed-maps where
...
+  left |           | right
+       ∨           ∨
+       B --------> Y.
+          bottom
 ```
 
-is a coherence of the underlying square of (unpointed) maps, plus a coherence
-between the pointedness preservation proofs.
+Such a square is said to be a
+{{#concept "commuting square of pointed maps" Agda=coherence-square-pointed-maps}}
```
Comment (VojtechStep) [inline src/structured-types/commuting-squares-of-pointed-maps.lagda.md:42]: In commuting squares of pointed homotopies you have "commuting square" being the concept, with "pointed maps" being a disambiguation

File: src/structured-types/commuting-squares-of-pointed-maps.lagda.md [hunk 12]
```diff
@@ -55,5 +74,285 @@ module _
...
+       ∨                ∨                 ∨
+       D -------------> E --------------> F
+          bottom-left      bottom-right
+```
+
+with pointed homotopies
+
+```text
+  H : bottom-left ∘∗ left ~∗ middle ∘∗ top
+  K : bottom-right ∘∗ middle ~∗ right ∘∗ top-right
```
Comment (VojtechStep) [inline src/structured-types/commuting-squares-of-pointed-maps.lagda.md:196]:
```suggestion
  K : bottom-right ∘∗ middle ~∗ right ∘∗ top-right .
```

Since the sentence ends here

File: src/structured-types/pointed-homotopies.lagda.md [hunk 13]
```diff
@@ -29,38 +39,551 @@ open import structured-types.pointed-types
...
+        H₀ *
+  f₀ * ------> g₀ *
+      \       /
+    f₁ \     / g₁
+        \   /
+         ∨ ∨
+          *.
+```
+
+commutes. Therefore we also introduce the type `uniform-pointed-htpy` of pointed
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:92]: Thanks, I rewrote the paragraph a little bit because I could improve it more substatially.

File: src/structured-types/pointed-homotopies.lagda.md [hunk 14]
```diff
@@ -29,38 +39,551 @@ open import structured-types.pointed-types
...
+is a pointed dependent function of the
+[pointed family](structured-types.pointed-families-of-types.md) of
+[pointwise identifications](foundation-core.homotopies.md). The base point of
+the family `x ↦ f₀ x ＝ g₀ x` over `A` is the identification
+
+```text
+  f₁ ∙ inv g₁ : f₀ * ＝ g₀ *.
+```
+
+A pointed homotopy `f ~∗ g` therefore consists of an unpointed homotopy
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:53]: Thanks for catching this mistake. I improved it.

File: src/structured-types/pointed-homotopies.lagda.md [hunk 15]
```diff
@@ -29,38 +39,551 @@ open import structured-types.pointed-types
...
+pointed homotopy this way.
+
+We will see below that for pointed 2-homotopies, i.e., pointed homotopies
+between pointed homotopies, a significant simplification is possible by making
+sure that every identification faces in its uninverted direction. The only
+disadvantage of the nonuniform definition of pointed homotopies is that it does
+not easily iterate.
+
+We will write `f ~∗ g` for the nonuniform definition of pointed homotopies, and
+we will write `H ~²∗ K` for the nonuniform definition of pointed 2-homotopies.
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:112]: Ah, I put it in the code now:)

File: src/structured-types/pointed-homotopies.lagda.md [hunk 16]
```diff
@@ -29,38 +39,551 @@ open import structured-types.pointed-types
...
+### Extensionality of pointed dependent function types by uniform pointed homotopies
+
+```agda
+module _
+  {l1 l2 : Level} {A : Pointed-Type l1} {B : Pointed-Fam l2 A}
+  (f : pointed-Π A B)
+  where
+
+  uniform-extensionality-pointed-Π :
+    (g : pointed-Π A B) → Id f g ≃ uniform-pointed-htpy f g
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:580]: Nope, that was just a leftover from the old days

File: src/structured-types/pointed-homotopies.lagda.md [hunk 17]
```diff
@@ -71,206 +594,484 @@ module _
...
+      ( f ∘∗ id-pointed-map)
+      ( f)
+      ( htpy-right-unit-law-comp-pointed-map)
+  coherence-right-unit-law-comp-pointed-map = refl
+
+  right-unit-law-comp-pointed-map : f ∘∗ id-pointed-map ~∗ f
+  pr1 right-unit-law-comp-pointed-map =
+    htpy-right-unit-law-comp-pointed-map
+  pr2 right-unit-law-comp-pointed-map =
+    coherence-right-unit-law-comp-pointed-map
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:868]: It was not necessary, because `right-unit-law-comp-pointed-map` is `refl-pointed-htpy`.

File: src/structured-types/pointed-homotopies.lagda.md [hunk 18]
```diff
@@ -71,206 +594,484 @@ module _
...
-                    ( pr2 g))))))) ∙
+  htpy-concat-pointed-2-htpy :
+    unpointed-htpy-pointed-htpy H L
+  htpy-concat-pointed-2-htpy =
+    htpy-pointed-2-htpy H K α ∙h htpy-pointed-2-htpy K L β
+
+  coherence-point-concat-pointed-2-htpy :
+    coherence-point-unpointed-htpy-pointed-htpy H L htpy-concat-pointed-2-htpy
+  coherence-point-concat-pointed-2-htpy =
+    ( coherence-point-pointed-2-htpy K L β) ∙
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:933]: Is it important that I change it?

File: src/structured-types/pointed-homotopies.lagda.md [hunk 19]
```diff
@@ -71,206 +594,484 @@ module _
...
+      ( coherence-point-pointed-htpy K)
+      ( inv (ap-inv _ (htpy-pointed-2-htpy H K α _)))
+      ( coherence-point-pointed-2-htpy H K α)
+
+  inv-pointed-2-htpy : pointed-2-htpy K H
+  pr1 inv-pointed-2-htpy = htpy-inv-pointed-2-htpy
+  pr2 inv-pointed-2-htpy = coherence-point-inv-pointed-2-htpy
+```
+
+Id (pr2 H) (pr2 K ∙ ap (\_∙ pr2 g) (inv (pr1 α (pr2 A))))
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md]: Garbage:)

File: src/structured-types/pointed-homotopies.lagda.md [hunk 20]
```diff
@@ -71,206 +594,484 @@ module _
...
-  right-whisker-comp-pointed-map g1 g2 H (pair f refl) =
-    pair (pr1 H ·r f) (pr2 H)
+  htpy-left-unit-law-concat-pointed-htpy :
+    unpointed-htpy-pointed-htpy
+      ( concat-pointed-htpy (refl-pointed-htpy f) H)
+      ( H)
+  htpy-left-unit-law-concat-pointed-htpy = refl-htpy
+
+  inv-coherence-point-left-unit-law-concat-pointed-htpy :
+    ap id (coherence-point-pointed-htpy H) ∙ refl ∙ refl ＝
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:998]: I'll just remove it.

File: src/structured-types/pointed-homotopies.lagda.md (hunk 18 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/structured-types/pointed-homotopies.lagda.md:955]: Not particularly, it's just that it would avoid having the chain run to the right

**Review by VojtechStep — COMMENTED** [review]
Another round of partial reviews, the next to hopefully follow during the weekend. The reformulation of the prose for pointed homotopies helped a lot 👌

File: src/structured-types/commuting-squares-of-pointed-maps.lagda.md (hunk 12 above)
Comment (EgbertRijke) [reply src/structured-types/commuting-squares-of-pointed-maps.lagda.md:196]: I would argue that the sentence ends one space earlier:) Thanks for spotting that!

File: src/structured-types/pointed-homotopies.lagda.md (hunk 18 above)
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md]: I shortened this proof and avoided the running chain to the right by adding another 300 lines of code:)

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/structured-types/pointed-homotopies.lagda.md]: The agda-unimath way™️

**Comment by EgbertRijke** [comment]
I have cut off all the unfinished parts of `morphisms-pointed-arrows` and declare this pull request ready for review. I got to extensionality of morphisms of pointed arrows, and that was a natural point to stop.

File: src/structured-types/pointed-homotopies.lagda.md [hunk 21]
```diff
@@ -71,206 +594,484 @@ module _
...
+      ( H)
+  htpy-right-unit-law-concat-pointed-htpy = right-unit-htpy
+
+  coherence-point-right-unit-law-concat-pointed-htpy :
+    coherence-point-unpointed-htpy-pointed-htpy
+      ( concat-pointed-htpy H (refl-pointed-htpy g))
+      ( H)
+      ( htpy-right-unit-law-concat-pointed-htpy)
+  coherence-point-right-unit-law-concat-pointed-htpy =
+    ( inv right-unit) ∙
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md]: I addressed this comment by refactoring the construction of this coherence.

File: src/synthetic-homotopy-theory/null-cocones-under-pointed-span-diagrams.lagda.md [hunk 22]
```diff
@@ -0,0 +1,137 @@
...
+`cocone-Pointed-Type f g`.
+
+## Definitions
+
+### Null cocones under pointed span diagrams
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level}
+  {S : Pointed-Type l1} {A : Pointed-Type l2}
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/null-cocones-under-pointed-span-diagrams.lagda.md]: Definitely!

File: src/synthetic-homotopy-theory/cocones-under-pointed-span-diagrams.lagda.md [hunk 23]
```diff
@@ -44,36 +44,13 @@ module _
   (f : S →∗ A) (g : S →∗ B)
   where
 
-  type-cocone-Pointed-Type :
+  cocone-Pointed-Type :
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/cocones-under-pointed-span-diagrams.lagda.md:47]: Yes, but note that this is going to trigger some more refactoring in synthetic homotopy theory, of everything that uses cocones under pointed span diagrams.

I will do it.

File: src/structured-types/constant-pointed-maps.lagda.md (hunk 2 above)
Comment (EgbertRijke) [reply src/structured-types/constant-pointed-maps.lagda.md:23]: Nope, these were just leftovers from changing the file name and the entry name for constant pointed maps. Thanks for catching them!

File: src/structured-types/pointed-equivalences.lagda.md (hunk 5 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:55]: Hmm... to me they are quite literally other words, and it is also not associativity of Sigma. As shown in `compute-pointed-equiv` it is `equiv-right-swap-Σ`.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 6 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md]: I revised the wording. Hopefully it is clearer now. I'll let you resolve this conversation if you confirm that the title has improved.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 7 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:402]: I don't really want to, because `is-iso` is not a proposition in our library.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 8 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:435]: The sentence is written as intended. Removing one of the "is an equivalence" phrases would change the meaning of the sentence.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 9 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:579]: Thanks for spotting that. I must have changed a name so that now they fit on a line.

File: src/foundation/commuting-triangles-of-identifications.lagda.md [hunk 24]
```diff
@@ -415,3 +416,578 @@ module _
...
+     \ L' |
+    l \   |m
+       \  |
+        ∨ ∨
+          d,
+```
+
+where the identifications `m : b ＝ d` and `right : c ＝ d` are the same as in
+the previous diagram. Finally, consider an identification
+`p : top-right ＝ top-right'` and an identification `q` witnessing that the
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation/commuting-triangles-of-identifications.lagda.md:1055]: I agree that it is subobtimal, but I needed single letter names in the diagrams otherwise they were becoming too wide and too cluttered.

File: src/foundation/commuting-triangles-of-identifications.lagda.md [hunk 25]
```diff
@@ -415,3 +416,578 @@ module _
...
+  L' \     / right-whisker p m
+      \   /
+       ∨ ∨
+     s' ∙ r
+```
+
+commutes. Then the triangle
+
+```text
+                      horizontal-pasting L R
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/foundation/commuting-triangles-of-identifications.lagda.md:1071]: Thanks for spotting that. I think some of the complications in the previous comments were also due to copy paste errors and I fixed them.

File: src/structured-types/pointed-homotopies.lagda.md [hunk 26]
```diff
@@ -29,38 +39,564 @@ open import structured-types.pointed-types
...
+direction of the identification `g₁`.
+
+Note that in this second definition of pointed homotopies we defined pointed
+homotopies between pointed dependent functions to be certain pointed dependent
+functions. This implies that the second definition is a uniform definition that
+can easily be iterated in order to consider pointed higher homotopies. For this
+reason, we call the second definition of pointed homotopies
+{{#concept "uniform pointed homotopies" Agda=uniform-pointed-htpy}}.
+
+A complication of this approach to the definition of pointed homotopies is that
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md:101]: I revised it.

File: src/structured-types/pointed-homotopies.lagda.md [hunk 27]
```diff
@@ -29,38 +39,564 @@ open import structured-types.pointed-types
...
+  coherence-point-unpointed-htpy-pointed-Π =
+    coherence-triangle-identifications
+      ( preserves-point-function-pointed-Π f)
+      ( preserves-point-function-pointed-Π g)
+      ( G (point-Pointed-Type A))
+```
+
+### Preservation of the base point of unpointed homotopies between pointed maps
+
+The coherence of pointed homotopies asserts that its underlying homotopy
```
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/structured-types/pointed-homotopies.lagda.md]: I think I fixed it

**Comment by EgbertRijke** [comment]
I am now done with my revisions based on the review comments.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 3 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:80]: I tried, but agda showed me yellow.

Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:80]: It is actually quite obvious why Agda should be showing yellow. The predicate of being a pointed equivalence doesn't refer to the base point coherence.

File: src/synthetic-homotopy-theory/cocones-under-pointed-span-diagrams.lagda.md (hunk 23 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/synthetic-homotopy-theory/cocones-under-pointed-span-diagrams.lagda.md:47]: Thanks for the explanation.

> I will do it.

Do you mean in this PR, or somewhere else? I now see that it's very much in scope for "Rebasing <stuff> to span diagrams", so that's the more natural place for these changes to be made. Feel free to resolve this conversation.

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/cocones-under-pointed-span-diagrams.lagda.md:47]: Originally I meant in this pull request, but probably it is best in some other pull request.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 8 above)
Comment (VojtechStep) [reply src/structured-types/pointed-equivalences.lagda.md:435]: Ah, now I see it. Might I then suggest using a comma?
```suggestion
is an equivalence for any pointed type `C`, is an equivalence.
```

File: src/structured-types/pointed-equivalences.lagda.md (hunk 7 above)
Comment (VojtechStep) [reply src/structured-types/pointed-equivalences.lagda.md:402]: But the return type is `is-pointed-iso`, which is a proposition? I'm also looking closer at the names, and I'm not sure why this isn't called `is-pointed-iso-is-pointed-equiv`?

Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md:402]: You are completely right. The names were wrong and should have been `is-pointed-iso` and `is-pointed-equiv` in a bunch of places. And indeed they are both propositions.

File: src/structured-types/pointed-equivalences.lagda.md (hunk 5 above)
Comment (EgbertRijke) [reply src/structured-types/pointed-equivalences.lagda.md]: Hmm... I don't think I have been so strict with the phrase "in other words". I am pretty sure that I have also used it to give an equivalent perspective in other instances.

I revised the wording.

File: src/structured-types/whiskering-pointed-homotopies-concatenation.lagda.md [hunk 28]
```diff
@@ -0,0 +1,280 @@
...
+
+## Idea
+
+The [whiskering operations](foundation.whiskering-operations.md) of
+[pointed homotopies](structured-types.pointed-homotopies.md) are operations that
+take a pointed `2`-homotopy between two pointed homotopies `H K : f ~∗ g`
+between [pointed maps](structured-types.pointed-maps.md) `f g : A →∗ B` and a
+pointed homotopy `α` either into `H` or out of `K` and return a pointed
+`2`-homotopy from the concatenation of `α` and `H` to the concatenation of `α`
+and `K`. There are two such operations: left whiskering and right whiskering.
```
Comment (VojtechStep) [inline src/structured-types/whiskering-pointed-homotopies-concatenation.lagda.md:35]: This paragraph is trying to talk about both operations at once and is (IMO unnecessarily) hard to understand as a result

**Review by VojtechStep — COMMENTED** [review]
Thanks for the rewording and explanations. I finished reviewing the PR; there's no rush to address the comments

File: src/foundation/commuting-triangles-of-identifications.lagda.md (hunk 24 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/foundation/commuting-triangles-of-identifications.lagda.md]: Sure, I don't mind the short names, or even using `t`/`t'` in the diagrams and `top-right`/`top-right'` in the prose, but the `s`/`s'` was harder to connect. Using short names everywhere is fine by me 👌

File: src/structured-types/pointed-isomorphisms.lagda.md [hunk 29]
```diff
@@ -0,0 +1,386 @@
...
+```
+
+</details>
+
+## Idea
+
+A {{#concept "pointed isomorphism" Agda=pointed-iso}} is an isomorphism in the
+wild category of pointed types, i.e., it is a
+[pointed map](structured-types.pointed-types.md) equipped with a
+[pointed section](structured-types.pointed-sections.md) and a
```
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/structured-types/pointed-isomorphisms.lagda.md:37]: I get the sentiment that "isomorphism" is too good of a word to be used for a perhaps-not-so useful notion in the general, higher dimensional case. I think it's a good topic for discussion, but I'd like to ask you to call these biinvertible pointed maps for now, if only to stay internally consistent, and we can later come up with a convention for what to call "isomorphisms" (I for one am not sure if I'd rather have "isomorphisms" be biinvertible maps or coherently invertible maps, but perhaps the latter).

File: src/structured-types/uniform-pointed-homotopies.lagda.md [hunk 30]
```diff
@@ -0,0 +1,317 @@
...
+```
+
+</details>
+
+## Idea
+
+The concept of _uniform pointed homotopy_ is an
+[equivalent](foundation-core.equivalences.md) way of defining
+[pointed homotopies](structured-types.pointed-homotopies.md). A uniform pointed
+homotopies `H` between two
```
Comment (VojtechStep) [inline src/structured-types/uniform-pointed-homotopies.lagda.md:35]:
```suggestion
homotopy `H` between two
```

File: src/structured-types/uniform-pointed-homotopies.lagda.md [hunk 31]
```diff
@@ -0,0 +1,317 @@
...
+[pointed dependent functions](structured-types.pointed-dependent-functions.md)
+`f` and `g` is defined to be a pointed dependent functions of the
```
Comment (VojtechStep) [inline src/structured-types/uniform-pointed-homotopies.lagda.md:37]:
```suggestion
`f` and `g` is defined to be a pointed dependent function of the
```

File: src/structured-types/uniform-pointed-homotopies.lagda.md [hunk 32]
```diff
@@ -0,0 +1,317 @@
...
+dependent functions are again pointed dependent functions, we can easily
+consider uniform pointed homotopies between uniform pointed homotopies and so
+on. The definition of uniform pointed homotopies is uniform in the sense that
+they can be iterated in this way. We now give a more detailed description of the
+definition.
+
+Consider two pointed dependent functions `f := (f₀ , f₁)` and `g := (g₀ , g₁)`
+in the pointed dependent function type `Π∗ A B`. Then the type family
+`x ↦ f₀ x ＝ g₀ x` over the base type `A` is a pointed type family, where the
+base point is the
```
Comment (VojtechStep) [inline src/structured-types/uniform-pointed-homotopies.lagda.md:50]:
```suggestion
base point is the identification
```
Either this, or delete the "the"

File: src/structured-types/whiskering-pointed-2-homotopies-concatenation.lagda.md [hunk 33]
```diff
@@ -0,0 +1,280 @@
...
+  indicated in the diagram
+
+  ```text
+                 K
+        H      ----->
+    f -----> g -----> h,
+                 L
+  ```
+
+  and returns a pointed `2`-homotopy `H ∙h K ~∗ H ∙h K`.
```
Comment (VojtechStep) [inline src/structured-types/whiskering-pointed-2-homotopies-concatenation.lagda.md:49]:
```suggestion
  and returns a pointed `2`-homotopy `H ∙h K ~∗ H ∙h L`.
```

File: src/structured-types/whiskering-pointed-2-homotopies-concatenation.lagda.md [hunk 34]
```diff
@@ -0,0 +1,280 @@
...
+[pointed `2`-homotopies](structured-types.pointed-2-homotopies.md) with respect
+to concatenation of [pointed homotopies](structured-types.pointed-homotopies.md)
+are two operations that produce pointed 2-homotopies between concatenations of
+pointed homotopies from either a pointed 2-homotopy on the left or on the right
+of the concatenations.
+
+- The
+  {{#concept "left whiskering" Disambiguation="pointed `2`-homotopies with respect to concatenation" Agda=left-whisker-concat-pointed-2-htpy}}
+  is an operation that takes a pointed homotopy `H : f ~∗ g` and a pointed
+  `2`-homotopy `α : K ~∗ L` between two pointed homotopies `K L : g ~∗ h` as
```
Comment (VojtechStep) [inline src/structured-types/whiskering-pointed-2-homotopies-concatenation.lagda.md:39]: Is it intentional that the pointed 2-homotopies in the prose are written with `~∗` and not `~²∗`? I'm not necessarily saying that you should use `~²∗`, just asking if it's an oversight or not.

File: src/structured-types/whiskering-pointed-homotopies-composition.lagda.md [hunk 35]
```diff
@@ -0,0 +1,365 @@
...
+    A -----> B -----> C.
+        g
+  ```
+
+  The
+  {{#concept "left whiskering operation on pointed homotopies" Agda=left-whisker-comp-pointed-htpy}}
+  of `h` and `H` is a pointed homotopy
+
+  ```text
+    h ·l∗ H : h ∘∗ f ~∗ h ∘∗ g.
```
Comment (VojtechStep) [inline src/structured-types/whiskering-pointed-homotopies-composition.lagda.md:53]: The notation `h ·l∗ H` is not used in the sections explaining the individual operations (the unpointed `h ·l H` is used there), nor is it defined in the code.

File: src/structured-types/whiskering-pointed-homotopies-composition.lagda.md [hunk 36]
```diff
@@ -0,0 +1,365 @@
...
+
+### Left whiskering of pointed homotopies
+
+Consider two pointed maps `f := (f₀ , f₁) : A →∗ B` and
+`g := (g₀ , g₁) : A →∗ B` equipped with a pointed homotopy
+`H := (H₀ , H₁) : f ~∗ g`, and consider furthermore a pointed map
+`h := (h₀ , h₁) : B →∗ C`. Then we construct a pointed homotopy
+
+```text
+  h ·l H : (h ∘∗ f) ~∗ (h ∘∗ g)
```
Comment (VojtechStep) [inline src/structured-types/whiskering-pointed-homotopies-composition.lagda.md:85]:
```suggestion
  h ·l H : (h ∘∗ f) ~∗ (h ∘∗ g).
```

File: src/structured-types/whiskering-pointed-2-homotopies-concatenation.lagda.md (hunk 34 above)
Comment (EgbertRijke) [reply src/structured-types/whiskering-pointed-2-homotopies-concatenation.lagda.md:39]: That was not intentional. Thanks for catching that!

File: src/structured-types/whiskering-pointed-homotopies-composition.lagda.md (hunk 35 above)
Comment (EgbertRijke) [reply src/structured-types/whiskering-pointed-homotopies-composition.lagda.md:53]: Thanks!

File: src/structured-types/pointed-isomorphisms.lagda.md (hunk 29 above)
[the remark this answers is not in the document]
Comment (VojtechStep) [reply src/structured-types/pointed-isomorphisms.lagda.md:37]: I'm resolving this in favor of opening #1072

**Comment by VojtechStep** [comment]
Everything looks great, I'm hitting the green button 👌
